US08975254B2
a) Imidazo[1,2-a]pyridine-2-carboxylic acid
Into a flask containing a mixture of ethyl imidazo[1,2-a]pyridine-2-carboxylate (1 g, 5.26 mmol), THF (5 ml) and water (5 ml), lithium hydroxide (0.378 g, 15.77 mmol) was added and stirred overnight at RT. The pH of the reaction mixture was adjusted to 2 with 2 M HCl and THF was evaporated. The remaining water phase was extracted with ethyl acetate and the combined ethyl acetate phases were dried. The product had precipitated into the water phase. Water was evaporated, and the remaining solid recrystallized from methanol. The product was used as a salt in the next step. 1H-NMR (400 MHz; DMSO-d6): δ 7.23-7.26 (m, 1H), 7.63-7.70 (m, 1H), 7.76 (dd, 1H), 8.72 (s, 1H), 8.73-8.77 (m, 1H).

reactant | ethyl imidazo[1,2-a]pyridine-2-carboxylate | 5.26 mmol, 1 g | N=1C(=CN2C1C=CC=C2)C(=O)OCC | C10H10N2O2
reactant | lithium hydroxide | 15.77 mmol, 0.378 g | [OH-].[Li+]
reactant | HCl | 2 M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Imidazo[1,2-a]pyridine-2-carboxylic acid | N=1C(=CN2C1C=CC=C2)C(=O)O | C8H6N2O2
